US07419995B2
To a solution of 1-(3-bromophenyl)-N-methyl-1H-benzimidazole-5-carboxamide (20 mg, 0.06 mmol) and thiophene-2-boronic acid (9.0 mg. 0.073 mmol) in anhydrous DMF (0.6 mL) was added Pd(PPh3)4 (3.5 mg, 0.003 mmol) followed by a solution of Na2CO3 (19 mg, 0.18 mmol) in water (0.16 mL). The reaction was irradiated in the microwave for 10 min (200 W, 150° C.). After cooling, the reaction mixture was filtered through Celite and washed with EtOAc (15 mL). The combined organic layer was washed with saturated aqueous NaHCO3 solution (10 mL) followed by saturated aqueous solution brine (3×10 mL), dried (MgSO4) and evaporated to dryness. The crude product was purified by solid-phase extraction (Isolute SAX, followed by Isolute SCX), giving N-methyl-1-(3-thien-2-ylphenyl)-1H-benzimidazole-5-carboxamide as an off-white solid; 1H NMR (400 MHz, MeOH-d4): δ 8.57 (s, 1H), 8.27 (d, J=2 Hz, 1H), 7.89-7.86 (m, 2H), 7.78 (d, J=7.8 Hz, 1H), 7.66-7.62 (m, 2H), 7.52-7.54 (m, 2H), 7.45 (d, J=5.1 Hz, 1H), 7.12 (dd, J=3.5 Hz, 1.5 Hz, 1H), 2.97 (s, 3H); MS (ES+): m/z 333.9 (100%) [MH+].

reactant | 1-(3-bromophenyl)-N-methyl-1H-benzimidazole-5-carboxamide | 0.06 mmol, 20 mg | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NC | C15H12BrN3O
reactant | thiophene-2-boronic acid | 0.073 mmol, 9.0 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 0.18 mmol, 19 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | water | 0.16 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.003 mmol, 3.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-1-(3-thien-2-ylphenyl)-1H-benzimidazole-5-carboxamide | CNC(=O)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)C=2SC=CC2)C=C1 | C19H15N3OS
